US05356918
(4S,5R)-N-(2-Nitrooxyethyl)-5-methyl-2-oxooxazolidine-4-carboxamide (Compound No. 1-35)
A procedure similar to that described in Example 19 was repeated, but using 180 mg of (4S,5R)-5-methyl-2-oxooxazolidine-4-carboxylic acid and 230 mg of N-(2-nitrooxyethyl)amine nitrate, after which the product was recrystallized from methylene chloride, to obtain 41 mg of the title compound as colorless needles, melting at 81.5°-82.5° C.

reactant | (4S,5R)-5-methyl-2-oxooxazolidine-4-carboxylic acid | 180 mg | C[C@@H]1[C@H](NC(O1)=O)C(=O)O | C5H7NO4
reactant | N-(2-nitrooxyethyl)amine nitrate | 230 mg | [N+](=O)(O)[O-].[N+](=O)([O-])OCCN
product | (4S,5R)-N-(2-Nitrooxyethyl)-5-methyl-2-oxooxazolidine-4-carboxamide | 41 mg | [N+](=O)([O-])OCCNC(=O)[C@H]1NC(O[C@@H]1C)=O | C7H11N3O6
